US07557215B2
[1-(2-Amino-ethyl)-pyrrolidin-2-yl-]methanol (S13)
The method follows that of S6 using 2-hydroxymethyl-pyrrolidin-1-yl-acetonitrile (19.5 g, 0.139 mol), LiAlH4 (15.84 g, 0.417 mol) and dry THF (150 mL). The title-compound (12.5 g, 63%) was afforded as straw-coloured oil by kugelrohr distillation (142° C., 0.3 mbar). δH (250 MHz; CDCl3); 1.6-1.9 (m, 4H, CH2CH2CH2, CH2CH2CH), 1.98 (s (broad), 3H, NH2, OH), 2.3 (m, 1H), 2.45 (m, 1H), 2.55 (m, 1H), 2.75-2.85 (m, 3H), 3.19 (m, 1H, NCHCH2), 3.4 (2×d, 1H, J=3 Hz and J=11 Hz, 1×CHCH2OH), 3.6 (2×d, 1H, J=3 Hz and J=11 Hz, 1×CHCH2OH); IR υmax/cm−1; 3375 (NH2), 3300 (NH2), 3200 (OH), 2970-2800 (CH2, CH3), 1600, 1475, 1375, 1230 and 1060; FAB MS, m/z(M+H)+ 145.

reactant | 2-hydroxymethyl-pyrrolidin-1-yl-acetonitrile | 0.139 mol, 19.5 g | OCC1N(CCC1)CC#N | C7H12N2O
reactant | LiAlH4 | 0.417 mol, 15.84 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | [1-(2-Amino-ethyl)-pyrrolidin-2-yl-]methanol | 12.5 g, 63% | NCCN1C(CCC1)CO | C7H16N2O
